US05958935
N,N'-Bis(3,4,5-Trimethoxyphenyl)-2,4-pyrimidinediamine
A solution of 2,4-dichloropyrimidine (1.0 g, 6.7 mmol), 3,4,5-trimethoxyaniline (2.5 g, 13.4 mmol) and triethylamnine (1.8 ml, 12.6 mmol) was heated at reflux for 5 h. On cooling the resulting precipitate was collected and recrystallised from ethyl acetate to give the title compound (450 mg) as a purple solid m.p. 180°. MS m/z 443 (M+H)+.

reactant | 2,4-dichloropyrimidine | 6.7 mmol, 1.0 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3,4,5-trimethoxyaniline | 13.4 mmol, 2.5 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
product | N,N'-Bis(3,4,5-Trimethoxyphenyl)-2,4-pyrimidinediamine | 450 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC=CC(=N1)NC1=CC(=C(C(=C1)OC)OC)OC | C22H26N4O6
